US08003796B2
Preparation of N-(2-fluoro-4-(2-oxo-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-1(2H)-yl)phenyl)pivalamide
Example 239 was prepared according to procedures described in Example 208 substituting 1-(4-amino-3-fluorophenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one for 1-(4-aminophenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one and substituting pivaloyl chloride (Aldrich) for Isobutyryl chloride except that the crude solid purified by flash chromatography (SiO2, 0 to 100% EtOAc in CH2Cl2). 1H NMR (400 MHz, CDCl3) δ ppm 8.51 (t, J=8.66 Hz, 1H), 8.19 (s, 2H), 7.68 (d, J=3.51 Hz, 1H), 7.25-7.30 (m, 1H), 7.17-7.25 (m, 1H), 7.12 (d, J=8.78 Hz, 1H), 5.96-6.06 (m, 2H), 4.51-4.63 (m, 1H), 4.15-4.26 (m, 2H), 3.59-3.69 (m, 2H), 2.43 (t, J=7.53 Hz, 2H), 1.97-2.15 (m, 2 H), 1.79-1.97 (m, 2H), 1.54-1.65 (m, 2H), 1.36 (s, 9H), 0.96 (t, J=7.28 Hz, 3H). MS (ESI) 508 (M+H).

reactant | 1-(4-amino-3-fluorophenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | NC1=C(C=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)CCC)=O)F | C23H26FN5O2
reactant | 1-(4-aminophenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | NC1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)CCC)=O | C23H27N5O2
reactant | Isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | N-(2-fluoro-4-(2-oxo-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-1(2H)-yl)phenyl)pivalamide | FC1=C(C=CC(=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)CCC)=O)NC(C(C)(C)C)=O | C28H34FN5O3
